US06294668B1
(E)-(6R,7R)-7-[2-(2-Amino-thiazol-4-yl)-acetylamino]-3-[1-[1-[(4-hydroxyphenylcarbamoyl)-methyl]-pyridin-1-ium-4-ylmethyl]-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate
With 54.5 mg (0.34 mmol) 1,1′-carbonyldiimidazole, 53.0 mg (0.34 mmol) (2-aminothiazole-4-yl)-acetic acid and 182.0 mg (0.28 mmol) (E)-(6R,7R)-7-amino-3-[1-[1-[(4-hydroxy-phenylcarbamoyl)-methyl]-pyridin-1-ium-4-ylmethyl]-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate trifluoroacetate in 4 ml N,N-dimethylformamide. The resulting solid was purified by reversed phase chromatography (RP-18 LiChroPrep gel, water:acetonitrile=9:1). The organic solvent was stripped off at a rotary evaporator and the aqueous phase was freeze-dried.

reactant | 1,1′-carbonyldiimidazole | 0.34 mmol, 54.5 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (2-aminothiazole-4-yl)-acetic acid | 0.34 mmol, 53.0 mg | NC=1SC=C(N1)CC(=O)O | C5H6N2O2S
reactant | (E)-(6R,7R)-7-amino-3-[1-[1-[(4-hydroxy-phenylcarbamoyl)-methyl]-pyridin-1-ium-4-ylmethyl]-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate trifluoroacetate | 0.28 mmol, 182.0 mg | FC(C(=O)[O-])(F)F.N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)/C=C\1/C(N(CC1)CC1=CC=[N+](C=C1)CC(NC1=CC=C(C=C1)O)=O)=O
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | (E)-(6R,7R)-7-[2-(2-Amino-thiazol-4-yl)-acetylamino]-3-[1-[1-[(4-hydroxyphenylcarbamoyl)-methyl]-pyridin-1-ium-4-ylmethyl]-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate | NC=1SC=C(N1)CC(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)[O-])/C=C\1/C(N(CC1)CC1=CC=[N+](C=C1)CC(NC1=CC=C(C=C1)O)=O)=O | C31H29N7O7S2
